* /Users/wilsontr/git/cgs-box/circuits/serge spring reverb.asc
V1 V+ 0 12
V2 V- 0 -12
C1 V- 0 10n
V3 N007 0 SINE(0 3 110 0 1 0)
R1 N007 0 100k
C2 P001 N007 10n
R2 N008 P001 1m
R3 N011 N008 100k
C3 N011 N008 10pF
R4 N011 V- 220
Q1 N005 P002 N011 0 2N3565
R5 V+ N005 6.8k
C4 N005 0 10n
L1 N005 N006 0.304715 Rser=1925
R6 N006 0 10k
C5 N006 0 2.2nF
Q2 N010 N006 N001 0 2N4249
R7 V+ N001 100k
C6 N001 0 22µ Rser=1 Lser=0 mfg="Nichicon" pn="UPG1J220MPH" type="Al electrolytic"
C7 N004 N002 47pF
C8 N003 N009 22µ Rser=1 Lser=0 mfg="Nichicon" pn="UPG1J220MPH" type="Al electrolytic"
R8 N003 N002 100k
R9 N003 N004 330
XX3 NC_01 N008 V+ V- P002 LM3900
XX1 N002 N010 V+ V- N004 LM3900
.model NPN NPN
.model PNP PNP
.lib /Users/wilsontr/Library/Application Support/LTspice/lib/cmp/standard.bjt
.op
.lib LM3900.MOD
.backanno
.end
